US07220807B2
Polymerization of VDF/HFP/CF2═CFCH2CH2Si(CH3)2H by AIBN/I(CF2)4I initiator
The procedure of Example 6 was followed, except solvent and initiator were varied. Due to the well-known unsuitability of CH2Cl2 as a solvent in regular free radical polymerization systems, including AIBN case, the solvent was changed to acetonitrile. After adding 0.3 g of AIBN, 0.8 g of I(CF2)4I, 3.0 g of CF2═CFCH2CH2Si(CH3)2H, and 30 ml of acetonitrile in a 70 ml stainless autoclave equipped with a magnetic stirrer, 20 ml of VDF and 5 ml of HFP were introduced into the reactor under vacuum by condensing the monomers at liquid nitrogen temperatures. The autoclave was warmed to room temperature gradually and then immersed in an oil bath at 70° C. for 20 hours. After recovering the unreacted monomers, clear solution was observed, and only trace amount (<0.1 g) of white powder was obtained after removing the volatiles.

reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | acetonitrile | C(C)#N | C2H3N
reactant | AIBN | 0.3 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | I(CF2)4I | 0.8 g | IC(F)(F)C(F)(F)C(F)(F)C(F)(F)I | C4F8I2
reactant | dimethyl 3,4,4-trifluoro-3-vinyl-butylsilane | 3.0 g | C[SiH](CCC(C(F)F)(C=C)F)C | C8H15F3Si
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | AIBN I(CF2)4I | <0.1 g | CC(C)(C#N)N=NC(C)(C)C#N.IC(F)(F)C(F)(F)C(F)(F)C(F)(F)I | InChI=1S/C8H12N4.C4F8I2/c1-7(2,5-9)11-12-8(3,4)6-10;5-1(6,3(9,10)13)2(7,8)4(11,12)14/h1-4H3;
